US07282512B2
To a solution of 0.132 g (0.625 mmol) of (1-{[(1-methyl-1H-imidazol-2-yl)sulfanyl]methyl}cyclobutyl) methanol in 2 mL of dichloromethane cooled to 0° C. was added a 1.0 M solution of 0.94 mL (1.41 mmol) of phosgene in toluene and the contents were stirred for 16 h. The reaction mixture was concentrated and the residue was dissolved in 3 mL of tetrahydrofuran, and added to a 0° C. solution of 0.165 g (0.63 mmol) of (3S)-3-amino-2-hydroxy-N-[(1R)-1-phenylethyl]heptanamide and 0.325 mL (1.89 mmol) of N,N-diisopropylethylamine in 2 mL of tetrahydrofuran. After stirring for 6 h, 30 mL of ethyl acetate and 20 mL of saturated sodium chloride was added. The organic phase was isolated, dried using magnesium sulfate, and concentrated under vacuum to afford the crude product which was purified by silica gel chromatography eluting with ethyl acetate to afford 0.220 g (70%) of (1-{[(1-methyl-1H-imidazol-2-yl)sulfanyl]methyl}cyclobutyl)methyl (1S)-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)pentylcarbamate as a colorless oil. 1H NMR (300 MHz, CDCl3)) δ 7.63-7.52 (m, 1H), 7.41 (m, 1H), 7.39-7.15 (m, 5H), 6.91, 6.98 (2s, 1H), 6.03 (br s, 1H), 5.69 (m, 1H), 5.19-5.11 (m, 1H), 4.18-3.95 (m, 4H), 3.61, 3.63 (2s, 2H), 3.28 (m, 2H), 2.21-1.61 (m, 10H), 1.60-1.16 (m, 5H), 0.90 (m, 3H). LC-MS m/z 503 (M+H).

reactant | (1-{[(1-methyl-1H-imidazol-2-yl)sulfanyl]methyl}cyclobutyl) methanol | 0.625 mmol, 0.132 g | CN1C(=NC=C1)SCC1(CCC1)CO | C10H16N2OS
reactant | phosgene | 1.41 mmol, 0.94 mL | C(=O)(Cl)Cl | CCl2O
reactant | (3S)-3-amino-2-hydroxy-N-[(1R)-1-phenylethyl]heptanamide | 0.63 mmol, 0.165 g | N[C@H](C(C(=O)N[C@H](C)C1=CC=CC=C1)O)CCCC | C15H24N2O2
reactant | N,N-diisopropylethylamine | 1.89 mmol, 0.325 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium chloride | 20 mL | [Cl-].[Na+]
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | (1-{[(1-methyl-1H-imidazol-2-yl)sulfanyl]methyl}cyclobutyl)methyl (1S)-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)pentylcarbamate | 0.220 g, 70% | OC(C(N[C@H](C)C1=CC=CC=C1)=O)[C@H](CCCC)NC(OCC1(CCC1)CSC=1N(C=CN1)C)=O | C26H38N4O4S
